US06489314B1
(a) (5R,6S)-1,1-diisopropoxy-5-hydroxy-2,2,6-trimethyl-8-nonen-3-one
A solution of 1,1-diisopropoxy-2,2,-dimethyl-3-butanone (3.08 g) in 15 mL of ether is added slowly to a solution of lithium diisopropylamide (15.7 mmol) in 20 mL of ether cooled to −78° C., the mixture is stirred for 30 minutes, warmed to −40° C. and stirred for 30 minutes, then recooled to −78° C. A solution of bis(1,2:5,6-di-O-isopropylidene-α-D-glucofuranos-3-O-yl)cyclopentadienyltitanium chloride (17.4 mmol) in 180 mL of ether is added dropwise over 40 minutes, and the reaction is stirred for an additional 30 minutes at −78° C., warmed to −30° C. and kept for 45 minutes, then recooled to −78° C. A solution of (2S)-2-methyl-4-pentenal (16.36 mmol) in 30 mL of ether is added over 10 minutes and the mixture is stirred for 2 hours at −78° C. A 5 M solution of water in THF (28 mL) is added, the mixture is stirred for 1 hour and then filtered through Celite. The filtrate is washed with sat. aq. NaCl, and the brine layer is back extracted with ether. The organic phases are combined, dried with Na2SO4, filtered, and evaporated. The product is purified by chromatography on SiO2.

reactant | 1,1-diisopropoxy-2,2,-dimethyl-3-butanone | 3.08 g | C(C)(C)OC(C(C(C)=O)(C)C)OC(C)C | C12H24O3
reactant | lithium diisopropylamide | 15.7 mmol | C(C)(C)[N-]C(C)C.[Li+]
reactant | (2S)-2-methyl-4-pentenal | 16.36 mmol | C[C@H](C=O)CC=C | C6H10O
reactant | water | O | H2O
solvent | ether | 15 mL | CCOCC | C4H10O
solvent | ether | 20 mL | CCOCC | C4H10O
solvent | ether | 180 mL | CCOCC | C4H10O
solvent | ether | 30 mL | CCOCC | C4H10O
solvent | THF | 28 mL | C1CCOC1 | C4H8O
product | (5R,6S)-1,1-diisopropoxy-5-hydroxy-2,2,6-trimethyl-8-nonen-3-one | C(C)(C)OC(C(C(C[C@H]([C@H](CC=C)C)O)=O)(C)C)OC(C)C | C18H34O4
